US04639518
5,6-Dimethoxy-3-phenylquinazolin-2,4(1H, 3H)-dione 1/4 Hydrate
To phenyl isocyanate (2.26 ml, 2.48 g, 20.8 mM) in pyridine (9.2 ml) at 0° C. was added a cold solution of ethyl 2-amino-5,6-dimethoxybenzoic acid (3.0 g, 13.3 mM) in pyridine (16.7 ml). The solution was stirred at 0° C. for thirty minutes, then kept at room temperature for one hour. The solution was then concentrated to dryness to give a white solid. This was dissolved in 69.9 ml of 1N NaOH (4:1 MeOH-H2O) and heated at reflux for two hours. The solvent was removed in vacuo and the gummy residue partially dissolved in H2O (100 ml). The mixture was taken to pH 6 with acetic acid and the resulting white solid filtered, washed well with H2O (50 ml) and dried to afford crude product as a white solid; 4.13 g, mp 215°-225° C. (softens 190° C.). Recrystallization from isopropanol (250 ml) afforded the title compound as a white solid; 2.65 g (65.8%); mp 241°-243° C. CF3COOH(TMS) 7.10-7.80 (m, 7H, 7-H, 8-H, 9-H, 10-H, 11-H, 12-H, 13-H), 4.05 (s, 3H, 5 or 6-OCH3), 10 (s, 3H, 5 or 6-OCH3). M+ 298.

reactant | phenyl isocyanate | 20.8 mM, 2.26 ml, 2.48 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | ethyl 2-amino-5,6-dimethoxybenzoic acid | 13.3 mM, 3.0 g | C(C)C=1C(=C(C(=O)O)C(=C(C1)OC)OC)N | C11H15NO4
solvent | pyridine | 9.2 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 16.7 ml | N1=CC=CC=C1 | C5H5N
solvent | NaOH | 1N, 69.9 ml | [OH-].[Na+]
product | 5,6-Dimethoxy-3-phenylquinazolin-2,4(1H, 3H)-dione | COC1=C2C(N(C(NC2=CC=C1OC)=O)C1=CC=CC=C1)=O | C16H14N2O4
